Testbench for designing the <Mosfet 1> and also the capacitor <CS>

**** INCLUDES ****
.include p18_cmos_models.inc		! CMOS models
.include p18_model_card.inc		! Model card
.include PhotoDiode.inc			! Photo diode
.include example_testbench.inc	! Use this for the "expose"

**** DEFINE CIRCUIT ****
VDD 1 0 dc 1.8
PD 1 N1 PhotoDiode Ipd=750p		! Photo diode
M1 N1 EXPOSE N2 0 NMOS L=0.37u W=5.039u ! Mosfet 1 
CS 1 0 2pf	 				! Capacitor


